datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1C)CC.[O-:21]CCCCCC>>CCC1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CCCCCC)C.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CCCCCC)C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)C)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C)CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(C)C([H])C1C>>[O:10]([Na])C(C)C([H])C([C:20](OC)=[O:21])C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)C.[O-:21]CC>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)C 21=20;20,10=10"
"[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[O]2.C[S:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C([H])C(C)C1O>>[O:10]([Na])C([H])C(C)C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C([H])=C(C)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)/C(C)=C([H])\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)CC)CC)[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CC)[H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C(CC)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])[H].[O-:21]C>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)[H])[H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)O[H])CCCCCC)C>>C(C([O-:21])CC)(C(O[C:20](=[O:10])O[H])CCCCCC)C 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])O[H])C.[O-:21][H]>>CCCCCCN([C:20]([O-:10])(O[H])[O:21][H])C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
